US05435991
1-Hydroxy-2,3-diphenyl-6,7-dicyanoindolizine
Diphenylcyclopropenone (0.319 g, 1.55 mmol) and 3,4-dicyanopyridine (0.200 g, 1.55 mmol) were mixed in a dry, argon filled reaction flask. Chlorobenzene (2.5 mL) (oxygen free) was added, and the reaction was heated to 130C. After 2 h the heating was stopped and the reaction was allowed to reach room temperature. Petroleum ether 40-60C (2.5 mL) was added in order to obtain a complete precipitate of the product. The solvent was filtered off and the precipitate was washed with petroleum ether. The crude product was stirred with chloroform (30. mL) for lb. The dark chloroform solution was filtered off leaving the title product as a yellow precipitate.

reactant | Diphenylcyclopropenone | 1.55 mmol, 0.319 g | C1(=CC=CC=C1)C1=C(C1=O)C1=CC=CC=C1 | C15H10O
reactant | 3,4-dicyanopyridine | 1.55 mmol, 0.200 g | C(#N)C=1C=NC=CC1C#N | C7H3N3
solvent | Chlorobenzene | 2.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Hydroxy-2,3-diphenyl-6,7-dicyanoindolizine | OC=1C(=C(N2C=C(C(=CC12)C#N)C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C22H13N3O
